US08426417B2
Step (d′). 5-[2-(5-bromo-2-trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-1-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (A1B1C1M1)
Palladium acetate [Pd(OAc)2] (0.12 g, 0.55 mmol), (±)-BINAP (0.34 g, 0.55 mmol) and dimethylformamide (60 mL) were charged to a round-bottom flask flushed with argon. The flask was evacuated and backfilled with argon. The mixture was stirred under argon for 30 minutes and added to a mixture of 5-bromo-2-trifluoromethoxy aniline (2.0 g, 5.60 mmol), 5-(2-iodo-pyrimidin-4-yl)-1-methyl-1H-pyrrole-3-carboxylic acid ethyl ester (1.44 g, 5.60 mmol), and potassium carbonate (7.70 g, 55.80 mmol) in dimethylformamide (90 mL). The resulting mixture was stirred at 80° C. for 3 hours under argon. After cooling to room temperature, the reaction mixture was filtered on a pad of celite. The solvent was concentrated, the crude solid was purified by flash chromatography on silica gel (eluant: hexane/ethyl acetate 70/30) to afford 1.41 g (52%) of the title compound as white solid.

reactant | 5-bromo-2-trifluoromethoxy aniline | 5.60 mmol, 2.0 g | BrC=1C=CC(=C(N)C1)OC(F)(F)F | C7H5BrF3NO
reactant | 5-(2-iodo-pyrimidin-4-yl)-1-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 5.60 mmol, 1.44 g | C(C)OC(=O)C1=CN(C(=C1)C1=NC(=NC=C1)I)C | C12H12IN3O2
reactant | potassium carbonate | 55.80 mmol, 7.70 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
catalyst | Palladium acetate | 0.55 mmol, 0.12 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 5-[2-(5-bromo-2-trifluoromethoxy-phenylamino)-pyrimidin-4-yl]-1-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1.41 g, 52% | C(C)OC(=O)C1=CN(C(=C1)C1=NC(=NC=C1)NC1=C(C=CC(=C1)Br)OC(F)(F)F)C | C19H16BrF3N4O3
